US07977364B2
6-benzyloxy-3-cyclopentyl-1H-indazole
A mixture of cyclopentyl (4-benzyloxy-2-fluorophenyl)methanone (40 g, 0.13 mol) in hydrazine hydrate (50 ml) was refluxed overnight. After cooling to room temperature, the solid was filtered, dissolved in EtOAc, then washed with aqueous NH4Cl and brine. The solution was dried over Na2SO4, filtered and concentrated under vacuum. Purification by flash chromatography (toluene/EtOAc 9/1) gave the expected product (13 g, 45% as solid).

reactant | cyclopentyl (4-benzyloxy-2-fluorophenyl)methanone | 0.13 mol, 40 g | C1(CCCC1)C(=O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F | C19H19FO2
reactant | hydrazine hydrate | 50 ml | O.NN
product | 6-benzyloxy-3-cyclopentyl-1H-indazole | 13 g, 45% | C(C1=CC=CC=C1)OC1=CC=C2C(=NNC2=C1)C1CCCC1 | C19H20N2O
